US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(3-chloro-5-ethenylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (240 mg, 0.420 mmol) and sodium periodate (270 mg, 1.261 mmol) in dioxane (5 mL) and water (3 ml) was added osmium tetroxide (2.5% solution in t-butanol) (0.106 ml, 8.44 μmol) and the mixture was stirred at room temperature for 5 hours. The mixture was diluted with EtOAc, washed with water and the solvent was removed. The crude material was purified via silica gel chromatography to give 4-chloro-N-({4-chloro-3-[(3-chloro-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (189 mg, 0.330 mmol, 78% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.92 (s, 1H), 8.79 (t, 1H), 8.00 (s, 1H), 7.65-7.82 (m, 1H), 7.48-7.57 (m, 1H), 7.37-7.49 (m, 2H), 7.28 (d, 1H), 5.51 (s, 2H), 4.51 (d, 2H), 3.21-3.60 (m, 2H), 0.77 (t, 2H), −0.07 (s, 9H)

reactant | 4-chloro-N-({4-chloro-3-[(3-chloro-5-ethenylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.420 mmol, 240 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=C)Cl)F)COCC[Si](C)(C)C | C25H27Cl3FN3O3Si
reactant | sodium periodate | 1.261 mmol, 270 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | osmium tetroxide | 8.44 μmol, 0.106 ml | [Os](=O)(=O)(=O)=O
product | 4-chloro-N-({4-chloro-3-[(3-chloro-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.330 mmol, 189 mg, 78% yield | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=O)Cl)F)COCC[Si](C)(C)C | C24H25Cl3FN3O4Si
